US04458075
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxypiperidine
A solution of 5 g of 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone and 1.4 g of sodium borohydride in 50 ml of isopropanol was stirred at ambient temperature for twenty hrs. The reaction mixture was quenched with methanol and concentrated. The residue was stirred with water and extracted with ether. The organic extracts were washed with water (2×), saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated to give 4.5 g (90%) of product. Recrystallization from ether gave the analytical sample, mp 88°-89° C.

reactant | 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone | 5 g | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)=O)C=C1 | C15H17FN2O2
reactant | sodium borohydride | 1.4 g | [BH4-].[Na+]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxypiperidine | 4.5 g, 90% | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)O)C=C1 | C15H19FN2O2
